US04440686
1.56 grams (0.005 mole) of 2-azido-3-benzyloxypropionic acid benzyl ester were dissolved in 10 ml of ethanol, 1.50 grams (0.041 mole) of dry hydrogen chloride gas led in and 0.03 grams of rhenium (VII) sulfide added. This reaction mixture was hydrogenated in an autoclave for 20 hours at 25° C. and a hydrogen pressure of 20 bar. After filtering off the catalyst the solvent was vaporized. The oil obtained (1.42 grams=88% of crude O-benzyl-D,L-serine benzyl ester hydrochloride) was dissolved in chloroform and treated with diethyl ether. The precipitated crystals were recrystallized three times from ethanol/diethyl ether. There was obtained 0.78 grams (48% of theory) of O-benzyl-D,L-serine benzyl ester hydrochloride having a melting point of 144.5°-145.5° C. (literature: 147.5°-148.5° C.).

reactant | 2-azido-3-benzyloxypropionic acid benzyl ester | 0.005 mole, 1.56 grams | C(C1=CC=CC=C1)OC(C(COCC1=CC=CC=C1)N=[N+]=[N-])=O | C17H17N3O3
reactant | hydrogen chloride | 0.041 mole, 1.50 grams | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | rhenium (VII) sulfide | 0.03 grams | [Re+5]=S
product | O-benzyl-D,L-serine benzyl ester hydrochloride | 88% | Cl.C(C1=CC=CC=C1)OC(C(N)COCC1=CC=CC=C1)=O | InChI=1S/C17H19NO3.ClH/c18-16(13-20-11-14-7-3-1-4-8-14)17(19)21-12-15-9-5-2-6-10-15;/h1-10,16H,11-13,18H2;1H
